US06303636B1
Sodium (3-methylbutoxy)benzenesulfonate
A solution of 4hydroxybenzenesulfonic acid (10.0 grams, 43.1 mmole) and sodium hydroxide (3.3 grams, 83 mmole) in water (40 mL) was mixed with a solution of 1-iodo-3methylbutane (11.3 mL, 86.4 mmole) in isopropanol (60 mL) and the resulting mixture was heated at reflux for 2 days. The isopropanol was removed by evaporation under vaccuum. The titled compound, 10.0 grams (87%), was collected by filtration washing with isopropanol.

reactant | 4hydroxybenzenesulfonic acid | 43.1 mmole, 10.0 grams | OC1=CC=C(C=C1)S(=O)(=O)O | C6H6O4S
reactant | sodium hydroxide | 83 mmole, 3.3 grams | [OH-].[Na+]
reactant | 1-iodo-3methylbutane | 86.4 mmole, 11.3 mL | ICCC(C)C | C5H11I
solvent | water | 40 mL | O | H2O
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | Sodium (3-methylbutoxy)benzenesulfonate | CC(CCOC1=C(C=CC=C1)S(=O)(=O)[O-])C.[Na+] | InChI=1S/C11H16O4S.Na/c1-9(2)7-8-15-10-5-3-4-6-11(10)16(12,13)14;/h3-6,9H,7-8H2,1-2H3,(H,12,13,14);/q;+1/p-1
